US04782160
In 2 ml of methylene chloride was dissolved 0.31 g of dimethyl 4-[2-(4-aminobutoxy)-5-nitrophenyl]-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate. After 2 ml of acetic anhydride was added to the solution under ice cooling, the mixture was stirred for 30 minutes at room temperature. The reaction solution was concentrated under reduced pressure and ether was added to the residue to solidify. The solid was recrystallized from chloroform-n-hexane to give 0.26 g of dimethyl 4-[2-[4-(acetylamino)butoxy]-5-nitrophenyl]-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate. This compound has the following physicochemical properties.

reactant | dimethyl 4-[2-(4-aminobutoxy)-5-nitrophenyl]-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate | 0.31 g | NCCCCOC1=C(C=C(C=C1)[N+](=O)[O-])C1C(=C(NC(=C1C(=O)OC)C)C)C(=O)OC | C21H27N3O7
reactant | acetic anhydride | 2 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | dimethyl 4-[2-[4-(acetylamino)butoxy]-5-nitrophenyl]-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate | 0.26 g | C(C)(=O)NCCCCOC1=C(C=C(C=C1)[N+](=O)[O-])C1C(=C(NC(=C1C(=O)OC)C)C)C(=O)OC | C23H29N3O8
